US04443466
To a solution of 12.2 g of 2,6-dimethylphenol in methanol are added 20 ml of 30% sodium methoxide solution, and the resultant mixture is warmed to 50° C. The mixture is maintained at that temperature while 5.8 g of 4-chloromethylimidazole in methanol are added, with stirring. After the addition is complete, the reaction mixture is stirred at 50°-60° C. for about 4 hours, then is cooled and poured into cold water. That mixture is acidified with hydrochloric acid and washed with ethyl acetate. The pH of the aqueous solution is then adjusted to 7-8, and the product is obtained by extraction with ethyl acetate. The desired 4-(3',5'-dimethyl-4'-hydroxybenzyl)imidazole is obtained in 54% yield. The free base is converted to the corresponding hydrochloride salt by treatment with HCl in a mixture of ethyl acetate and isopropanol. That salt melts at 210°-214° C.

reactant | 2,6-dimethylphenol | 12.2 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | sodium methoxide | 20 ml | C[O-].[Na+]
reactant | 4-chloromethylimidazole | 5.8 g | ClCC=1N=CNC1 | C4H5ClN2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-(3',5'-dimethyl-4'-hydroxybenzyl)imidazole | 54% yield | CC=1C=C(CC=2N=CNC2)C=C(C1O)C | C12H14N2O
